US04163844
By following the same procedure as in Example 49 using a mixture of 240 mg. of 2-carboxymethylbenzoic acid, 300 mg. of 2-amino-2-methylpropanethiol, 164 mg. of sodium acetate, and 5 ml. of o-dichlorobenzene, 120 mg. of 3,3-dimethyl-5-oxo-2,3-dihydro-5H-thiazolo[3,2-b]isoquinoline was obtained.

reactant | 2-carboxymethylbenzoic acid | C(=O)(O)CC1=C(C(=O)O)C=CC=C1 | C9H8O4
reactant | 2-amino-2-methylpropanethiol | NC(CS)(C)C | C4H11NS
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | o-dichlorobenzene | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 3,3-dimethyl-5-oxo-2,3-dihydro-5H-thiazolo[3,2-b]isoquinoline | CC1(CSC=2N1C(C=1C=CC=CC1C2)=O)C | C13H13NOS
